US04346088
4-(4-Chloro-3-chlorosulfonylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrobromide
2.5 g (50 mmoles) of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol hydrobromide are heated rapidly in a jacket, which has been preheated to 220° C., in vacuo (0.1 mm Hg) over phosphorus pentoxide. The substance melts with foaming, as a result of the elimination of water, and solidifies immediately after the end of the reaction, with recrystallization. Slightly green colored crystals; melting point 264° C.

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol hydrobromide | 50 mmoles, 2.5 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(=O)(=O)Cl
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | water | O | H2O
product | 4-(4-Chloro-3-chlorosulfonylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(=O)(=O)Cl | InChI=1S/C16H12Cl2N2O2S2.BrH/c1-20-14(10-23-16(20)19-12-5-3-2-4-6-12)11-7-8-13(17)15(9-11)24(18,21)22;/h2-10H,1H3;1H
